US09359358B2
Step 3: 6-(1,4-Dioxaspiro[4.5]dec-8-yloxy)-2-(trifluoromethyl)pyrimidine-4-carbaldehyde
4-(1,4-Dioxaspiro[4.5]dec-8-yloxy)-6-[(E)-2-ethoxyvinyl]-2-(trifluoromethyl)pyrimidine (2.50 g, 6.68 mmol) was dissolved in 1,4-dioxane (190 mL,) and water (48 mL) and then sodium periodate (4.3 g, 20. mmol, Aldrich) was added, followed by a 4% solution of osmium tetraoxide in water (1.47 mL, 0.232 mmol). The solution began to form a whitish solid after a few minutes. The reaction was stirred at 25° C. for 48 hours until LCMS analysis of the reaction mixture showed no starting material present. The reaction was transferred to a separatory funnel and partitioned between water and EtOAc, the phases were separated, and then the aqueous phase was washed with EtOAc. The combined organic phase was washed with water, then saturated NaCl, dried over MgSO4 and filtered and stripped to dryness to leave the crude product. The crude material was used in the next reaction without purification. 1H NMR (400 MHz, CDCl3) δ: 10.01 (s, 1H), 7.33 (s, 1H), 5.38 (m, 1H), 3.97 (s, 4H), 1.20-2.05 (m, 8H).

reactant | 4-(1,4-Dioxaspiro[4.5]dec-8-yloxy)-6-[(E)-2-ethoxyvinyl]-2-(trifluoromethyl)pyrimidine | 6.68 mmol, 2.50 g | O1CCOC12CCC(CC2)OC2=NC(=NC(=C2)\C=C\OCC)C(F)(F)F | C17H21F3N2O4
reactant | water | 48 mL | O | H2O
reactant | sodium periodate | 4.3 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | water | 0.232 mmol, 1.47 mL | O | H2O
solvent | 1,4-dioxane | 190 mL | O1CCOCC1 | C4H8O2
catalyst | osmium tetraoxide | [Os](=O)(=O)(=O)=O
product | 6-(1,4-Dioxaspiro[4.5]dec-8-yloxy)-2-(trifluoromethyl)pyrimidine-4-carbaldehyde | O1CCOC12CCC(CC2)OC2=CC(=NC(=N2)C(F)(F)F)C=O | C14H15F3N2O4
